US07608254B2
To 11.8 ml of a commercially available solution of 20% methyl magnesium chloride (31.4 mmol) in tetrahydrofuran were added 20 ml abs. tetrahydrofuran. The solution was cooled to −78° C., and 595 mg (3.14 mmol) copper-I-iodide were added. After stirring for 15 min, a solution of 4.55 g (10.5 mmol) (2R,9S)-9-benzyloxy-1(p-tolylsulfonyloxy)-decane-2-ol in 10 ml abs. tetrahydrofuran was added over a period of 2 h. The solution was warmed to −30° C. and stirred for another hour. Subsequently, 150 ml saturated aqueous ammonium chloride and 50 ml diethyl ether were added at 0° C. The aqueous layer was extracted three times with 150 ml ethyl acetate. The combined organic layers were dried over magnesium sulphate and concentrated in vacuo. Flash chromatography (16% ethyl acetate in hexane) furnished 2.6 g (9.4 mmol, 90%) (2S,9S)-2-benzyloxyundecane-9-ol

reactant | methyl magnesium chloride | 31.4 mmol | C[Mg]Cl
reactant | (2R,9S)-9-benzyloxy-1(p-tolylsulfonyloxy)-decane-2-ol | 10.5 mmol, 4.55 g | C(C1=CC=CC=C1)O[C@H](CCCCCC[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)C | C24H34O5S
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,9S)-2-benzyloxyundecane-9-ol | 9.4 mmol, 2.6 g, 90% | C(C1=CC=CC=C1)O[C@@H](C)CCCCCC[C@H](CC)O | C18H30O2
